US06624158B2
6-[(2,2-Diphenylethyl)amino]-9-[(2R,3R,4S,5R)-5-(2-ethyl-2H-tetrazol-5-yl)-3,4-dihydroxytetrahydro-2-furanyl]-N-(2-phenylethyl)-9H-purine-2-carboxamide
A mixture of methyl 9-[(2R,3R,4R,5R)-3,4-bis(acetyloxy)-5-(2-ethyl-2H-tetrazol-5-yl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylate (Preparation 30) (100 mg, 0.15 mmol) and 2-phenylethylamine (0.2 ml, 1.58 mmol) were heated together under a nitrogen atmosphere at 130° C. for three hours. The mixture was allowed to cool to room temperature and was then purified by column chromatography on silica gel eluting with a gradient system of ethyl acetate gradually changing to ethyl acetate:methanol (95:5 by volume). Product containing fractions were evaporated and the resulting solid was triturated with ether, filtered and dried to afford the title compound as a white powder (50 mg).

reactant | methyl 9-[(2R,3R,4R,5R)-3,4-bis(acetyloxy)-5-(2-ethyl-2H-tetrazol-5-yl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylate | 0.15 mmol, 100 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)C=1N=NN(N1)CC)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC | C32H33N9O7
reactant | 2-phenylethylamine | 1.58 mmol, 0.2 ml | C1(=CC=CC=C1)CCN | C8H11N
product | 6-[(2,2-Diphenylethyl)amino]-9-[(2R,3R,4S,5R)-5-(2-ethyl-2H-tetrazol-5-yl)-3,4-dihydroxytetrahydro-2-furanyl]-N-(2-phenylethyl)-9H-purine-2-carboxamide | 50 mg | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)C(=O)NCCC1=CC=CC=C1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)C=1N=NN(N1)CC)C1=CC=CC=C1 | C35H36N10O4
